US07595319B2
Methyl 3-amino-6-[4-[(4-methyl-1-piperazinyl)sulfonyl]phenyl]pyrazine-2-carboxylate
Triisopropyl borate (2.7 mL, 11.6 mmol) was added to a solution of 1-[(4-bromophenyl)sulfonyl]-4-methylpiperazine in (1.24 g, 3.87 mmol; described: in Keasling, H. H. et el. J. Med. Chem. 1965, 8, 548-550) in anhydrous tetrahydrofuran (25 mL) at −78° C. under an atmosphere of nitrogen, followed by dropwise addition of n-butyllithium (9.8 mL, 15.5 mmol). The resulting mixture was stirred at −78° C. for 30 min, then allowed to warm to room temperature. HCl (3 M aq, 7.8 mL, 23.2 mmol) was added and the mixture was stirred at room temperature for 10 min. Sodium carbonate (4.1 g, 38.7 mmol) was added followed by the addition of methyl 3-amino-6-bromo-2-pyrazinecarboxylate (0.79 g, 3.4 mmol; described in: H. Ellingson, J. Amer. Chem. Soc. 1949, 2798) and Pd(dppf)Cl2 (95 mg, 0.12 mmol). The resulting mixture was heated at 55° C. overnight. Silica was added, the solvent was evaporated and the crude mixture was purified by column chromatography on silica using chloroform/methanol, (99:1), as the eluent to give 0.923 g (69% yield) of the base as a yellow solid: 1HNMR (DMSO-d6) δ 9.0 (s, 1H), 8.22 (d, J=7 Hz, 2H), 7.80 (d, J=7 Hz, 2H), 7.62 (br s, 2H), 3.90 (s, 3H) 2.91 (m, 4H), 2.36 (m, 4H), 2.12 (s, 3H); 13C NMR (DMSO-d6) δ 166.2, 155.1, 145.8, 140.33, 127.5, 134.0, 128.1, 125.7, 109.1, 53.5, 52.3, 45.7, 45.2; MS (ESP) m/z 392 (M++1).

reactant | Triisopropyl borate | 11.6 mmol, 2.7 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 1-[(4-bromophenyl)sulfonyl]-4-methylpiperazine | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C11H15BrN2O2S
reactant | n-butyllithium | 15.5 mmol, 9.8 mL | C(CCC)[Li]
reactant | HCl | 23.2 mmol, 3 M, 7.8 mL | Cl | ClH
reactant | Sodium carbonate | 38.7 mmol, 4.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 3-amino-6-bromo-2-pyrazinecarboxylate | 3.4 mmol, 0.79 g | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.12 mmol, 95 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 3-amino-6-[4-[(4-methyl-1-piperazinyl)sulfonyl]phenyl]pyrazine-2-carboxylate | 0.923 g, 69% yield | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C(=O)OC | C17H21N5O4S
